datasets/10k__Tet_Int.csv
SMILES Labelled
"C1CC[C:20](=[O+:21]CC)CC1.[I-:10]>>C1CC[C:20](CC1)([O:21]CC)[I:10] 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C(C)[CH](CC)[O]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21]C)([O]CC)[S]C.[Cl-]>>[Cl-].[H][S:10][H].C[O+:21]=[C:20]([O]CC)[S]C 21=20;20,10=10"
"CN([C:20]([O-:10])(OCCCCCC)[Cl:21])C>>CN([C:20](=[O:10])OCCCCCC)C.[Cl-:21] 10=20;20,21=21"
"CC1C(O[C:20](=[O:10])N1C)CCCCCC.[O-:21]C1=CC=CC=C1>>CC1C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CC)[O-:10])C>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CC)C 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C([H])C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S]C([H])C(CC)[S]1 10=20;20,21=21"
"[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C([H])[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH]([H])[S]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C[NH:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)C)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1CC)C)CCCCCC.[O-:21]CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O]C(CC)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:10](C(C)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[O][C:20]([O][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[O:20]=[C:21](OCCCCCC)OC1=CC=CC=C1.C[O:10][Li]>>C[O+:10]([Li])[C:21]([O-:20])(OCCCCCC)OC1=CC=CC=C1 10=21;21,20=20"
"[NH:10]([H])C(C)C(C)C(C)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"CC[O:10][H].[H][NH+:21]=[C:20]([O]C)[O]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21][H])([O]C)[O]CC 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(C)[NH][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[Cl:21])CC)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CC)[H].[Cl-:21] 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)[H])CC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)[H])[O-:10])CC 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C(CC)C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S]C(CC)C(CC)[S]1 10=20;20,21=21"
"C[NH:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH][H] 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"CCCCCCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)[H]>>CCCCCCC1C(O[C:20](=[O:10])N1CCCCCC)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([S]CC)[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([S]CC)[S][H] 21=20;20,10=10"
"[H][O:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)C)[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)C)C 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)[H])C1=CC=CC=C1)C>>CN([C:20]1(OC(C(C([O:21]1)C)[H])C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])[H])[H])[H]>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)[H])[H])[O-:10])[H] 21=20;20,10=10"
"CN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)[H])[O-:10])C>>CN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)[H])C 10=20;20,21=21"
